US07049318B2
N-[2-(2(S)-Amino-3-phenyl-propylamino)-1-methyl-6-oxo-4-pyridin-4-yl-1,6-dihydro-pyrimidin-5-yl]-benzamide:
N-(2-Chloro-1-methyl-6-oxo-4-pyridin-4-yl-1,6-dihydro-pyrimidin-5-yl)-benzamide (0.07 mmol) was stirred as a solution with 3-phenyl-propane-1,2(S)-diamine (0.15 mmol) and diisopropylethylamine (0.1 mmol) at 0° C. for 2 h. The material was purified on reverse phase HPLC. M+1=455.

reactant | N-(2-Chloro-1-methyl-6-oxo-4-pyridin-4-yl-1,6-dihydro-pyrimidin-5-yl)-benzamide | 0.07 mmol | ClC=1N(C(C(=C(N1)C1=CC=NC=C1)NC(C1=CC=CC=C1)=O)=O)C | C17H13ClN4O2
reactant | 3-phenyl-propane-1,2(S)-diamine | 0.15 mmol | C1(=CC=CC=C1)C[C@@H](CN)N | C9H14N2
reactant | diisopropylethylamine | 0.1 mmol | C(C)(C)N(CC)C(C)C | C8H19N
product | N-[2-(2(S)-Amino-3-phenyl-propylamino)-1-methyl-6-oxo-4-pyridin-4-yl-1,6-dihydro-pyrimidin-5-yl]-benzamide | N[C@H](CNC=1N(C(C(=C(N1)C1=CC=NC=C1)NC(C1=CC=CC=C1)=O)=O)C)CC1=CC=CC=C1 | C26H26N6O2
